US06022492
Synthesis of 2-chloro-5-(2,3-difluorophenyl)pyrimidine
A reaction of 288 mmol of 5-bromo-2-chloropyrimidine, 288 mmol of 2,3-difluorophenylboronic acid, 576 mmol of sodium carbonate and 5.8 mmol of tetrakis(triphenylphosphine)palladium(0) in 560 ml of toluene, 280 ml of ethanol and 280 ml of water is carried out analogously to the procedure indicated for precursor 3. Corresponding purification gives 37.7 g (58%) of a colorless solid.

reactant | 5-bromo-2-chloropyrimidine | 288 mmol | BrC=1C=NC(=NC1)Cl | C4H2BrClN2
reactant | 2,3-difluorophenylboronic acid | 288 mmol | FC1=C(C=CC=C1F)B(O)O | C6H5BF2O2
reactant | sodium carbonate | 576 mmol | C([O-])([O-])=O.[Na+].[Na+]
solvent | toluene | 560 ml | C1(=CC=CC=C1)C | C7H8
solvent | ethanol | 280 ml | C(C)O | C2H6O
solvent | water | 280 ml | O | H2O
catalyst | tetrakis(triphenylphosphine)palladium(0) | 5.8 mmol | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2-chloro-5-(2,3-difluorophenyl)pyrimidine | 37.7 g, 58% | ClC1=NC=C(C=N1)C1=C(C(=CC=C1)F)F | C10H5ClF2N2
